US09388176B2
4-Bromo-N-(4-(trifluoromethyl)phenyl)picolinamide
In a manner similar to that describe in Preparation 34, 4-bromo-pyridine-2-carboxylic acid and 4-trifluoromethylaniline were converted to the title compound.

reactant | 4-bromo-pyridine-2-carboxylic acid | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | 4-Bromo-N-(4-(trifluoromethyl)phenyl)picolinamide | BrC1=CC(=NC=C1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C13H8BrF3N2O
